US06114574
Organic acids, such as naphthalene-2,6-dicarboxylic acid or terephthalic acid, are highly useful in the manufacture of polyester-type and polyamide-type resins, including polyethyleneterephthalate. Such organic acids customarily have been prepared by a liquid phase oxidation of an alkyl-substituted aromatic precursor in the presence of an aqueous acidic reaction medium, and usually in the presence of a metal catalyst. For example, U.S. Pat. No. 2,766,281 discloses the preparation of phthalic acids, including terephthalic acid, by a step-wise oxidation of a corresponding xylene with concentrated nitric acid at atmospheric pressure and in the presence of an inert organic reaction medium that is liquid at the reaction temperatures. In the first step, the xylene starting material is reacted with the nitric acid at a temperature of from about 120 ° C. up to the boiling point of the xylene starting material, while removing water by distillation, to form a toluic acid. In the second step, nitric acid is slowly added to the toluic acid at a temperature in excess of about 140 ° C., while removing water by distillation, to form the product phthalic acid.

reactant | naphthalene-2,6-dicarboxylic acid | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | toluic acid | CC=1C=CC=CC1C(=O)O | C8H8O2
